US05166347
Preparation of N-cyano-N'-(3,4-dichlorobenzyl)-4-pyridinecarboximidamide (method i)
Isopropyl N-cyano-4-pyridinecarboximidate (0.50 g, 2.6 mmol) was dissolved in methanol (10 ml), and 3,4-dichlorobenzylamine (0.52 g, 3.0 mmol) was added. The mixture was stirred at room temperature for 3 hours. After the reaction was completed, the reaction solution was concentrated under reduced pressure. The residual concentrate was crystallized from methanol-diethyl ether to give the title compound (0.42 g, 1.4 mmol, yield: 52%) as colorless crystals.

reactant | Isopropyl N-cyano-4-pyridinecarboximidate | 2.6 mmol, 0.50 g | C(#N)N=C(OC(C)C)C1=CC=NC=C1 | C10H11N3O
reactant | 3,4-dichlorobenzylamine | 3.0 mmol, 0.52 g | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-(3,4-dichlorobenzyl)-4-pyridinecarboximidamide | 1.4 mmol, 0.42 g, yield: 52% | C(#N)NC(=NCC1=CC(=C(C=C1)Cl)Cl)C1=CC=NC=C1 | C14H10Cl2N4
